US07829665B2
(1R,2S)-ethyl-1-((2S,4R)-4-hydroxypyrrolidine-2-carboxamido)-2-vinylcyclopropanecarboxylate hydrochloride salt (WO2005095403) (2.44 g, 7.76 mmol), (S)-5-(allyloxy)-2-(tert-butoxycarbonylamino)-pentanoic acid (WO2004094452) (2.02 g, 7.39 mmol) and HATU (3.09 g, 8.13 mmol) in toluene (36 mL) and ACN (4 mL) was added DIEA (2.58 mL, 14.78 mmol) at 0° C. The reaction warmed to rt and stirred at rt for 1 hr. Ethyl acetate (30 mL) and water (20 mL) was added. The organic layer was separated and washed with brine, dried over sodium sulfate. After removal of solvent, the residue was purified by chromatography (Ethyl acetate) to give (1R,2S)-ethyl 1-((2S,4R)-1-((S)-5-(allyloxy)-2-(tert-butoxycarbonylamino)pentanoyl)-4-hydroxypyrrolidine-2-carboxamido)-2-vinylcyclopropanecarboxylate as white wax solid (3.55 g, 92%). MS: Calcd.: 523; Found: [M+H]+ 524.

reactant | (1R,2S)-ethyl-1-((2S,4R)-4-hydroxypyrrolidine-2-carboxamido)-2-vinylcyclopropanecarboxylate hydrochloride salt | 7.76 mmol, 2.44 g | Cl.C(C)OC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1NC[C@@H](C1)O
reactant | (S)-5-(allyloxy)-2-(tert-butoxycarbonylamino)-pentanoic acid | 7.39 mmol, 2.02 g | C(C=C)OCCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C13H23NO5
reactant | HATU | 8.13 mmol, 3.09 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 14.78 mmol, 2.58 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 36 mL | C1(=CC=CC=C1)C | C7H8
solvent | ACN | 4 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (1R,2S)-ethyl 1-((2S,4R)-1-((S)-5-(allyloxy)-2-(tert-butoxycarbonylamino)pentanoyl)-4-hydroxypyrrolidine-2-carboxamido)-2-vinylcyclopropanecarboxylate | C(C=C)OCCC[C@@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)N[C@]1([C@@H](C1)C=C)C(=O)OCC)NC(=O)OC(C)(C)C | C26H41N3O8
